US08530475B2
Z-(1S,6S)-7-(2,4-Dimethoxy-benzyl)-9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene
Z-(1S,6S)-7-(2,4-Dimethoxy-benzyl)-9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione (102 mg, 0.023 mmol), THF (1 mL) and DiBAl-H (6 mL, 6 mmol, [1M]) were placed in a μW tube under argon vent then heated to 130° C. for 900 sec. The reaction was quenched with Rochelle's solution and diethyl ether and the resulting mixture stirred overnight. The organic layer was separated and dried with magnesium sulfate, filtered and the solvent evaporated under reduced pressure to yield a crude oil, which was purified via reverse chromatography (20% CH3CN/water to 100% water) to yield the title compound as a residue.

reactant | Z-(1S,6S)-7-(2,4-Dimethoxy-benzyl)-9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene-8,10-dione | 0.023 mmol, 102 mg | COC1=C(CN2[C@H]3C\C=C/C[C@@H](C2=O)N(C3=O)C3=CC2=CC=CC=C2C=C3)C=CC(=C1)OC | C27H26N2O4
reactant | DiBAl-H | 6 mmol, 1M, 6 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | Z-(1S,6S)-7-(2,4-Dimethoxy-benzyl)-9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-ene | COC1=C(CN2[C@H]3C\C=C/C[C@@H](C2)N(C3)C3=CC2=CC=CC=C2C=C3)C=CC(=C1)OC | C27H30N2O2
